US07763639B2
4-[2-CHLORO-3-(METHYLSULFONYL)PHENYL]-1-PROPYLPIPERIDINE
A mixture of 4-[2-chloro-3-(methylsulfonyl)phenyl]-1-propyl-1,2,3,6-tetrahydropyridine (0.46 g, 1.47 mmol), platinum oxide (0.11 g) and hydrochloric acid (0.1 ml, conc) in methanol (30 ml) was hydrogenated at 50 psi for 1 h under hydrogen gas. The reaction mixture was filtered through a pad of celite and the filtrate was concentrated and evaporated to dryness to give 0.48 g of crude product as the hydrochloric acid salt. Purification by flash column chromatography (ethylacetate/methanol, 1:1) gave the title compound (0.35 g, 75%). The amine was converted to the hydrochloric acid salt and recrystallized from ethanol/diethyl ether: M.p. 250-252° C. MS m/z (relative intensity, 70 eV) 315 (M+, 3), 288 (37), 287 (15), 286 (bp) 129 (7).

reactant | 4-[2-chloro-3-(methylsulfonyl)phenyl]-1-propyl-1,2,3,6-tetrahydropyridine | 1.47 mmol, 0.46 g | ClC1=C(C=CC=C1S(=O)(=O)C)C=1CCN(CC1)CCC | C15H20ClNO2S
reactant | hydrochloric acid | 0.1 ml | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
catalyst | platinum oxide | 0.11 g | [Pt]=O
product | 4-[2-CHLORO-3-(METHYLSULFONYL)PHENYL]-1-PROPYLPIPERIDINE | 0.35 g, 75% | ClC1=C(C=CC=C1S(=O)(=O)C)C1CCN(CC1)CCC | C15H22ClNO2S
